US05053411
Thionyl chloride (SOCl2, 6.2 ml) in chloroform (15 ml) was added dropwise to an ice chilled solution of 2-(2-hydroxyethyl)pyridine (Aldrich, 10 g, 81 mmol in chloroform (10 ml . After addition was complete, the reaction mixture was stirred for 15 hours. The solvent and excess thionyl chloride were removed on a vacuum rotary evaporator followed by exposure to high vacuum (90 minutes, 0.5 mm Hg, 80° C.) Recrystallization of the crude brown solid from isopropanol-isopropyl ether yielded 10.8 g of pure 2-(2-pyridinyl)ethyl chloride hydrochloride (mp. 124°-125° C., lit. mp., about 120° C., Gump et al., U.S. Pat. No. 2,533,243; Chem. Abstr., 1950, 45, p. 4271c) as light tan beads.

reactant | Thionyl chloride | 6.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-hydroxyethyl)pyridine | OCCC1=NC=CC=C1 | C7H9NO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-pyridinyl)ethyl chloride hydrochloride | 10.8 g | Cl.N1=C(C=CC=C1)CCCl | InChI=1S/C7H8ClN.ClH/c8-5-4-7-3-1-2-6-9-7;/h1-3,6H,4-5H2;1H
